US08877975B2
N,N-dimethyl-1-(1-(3-(trifluoromethyl)-phenyl)cyclohexyl)-methanamine (105)
The title compound was prepared from 1-(3-(trifluoromethyl)phenyl)cyclohexane-carbaldehyde (128 mg, 0.50 mmol) and dimethylamine (2.0 M in THF, 2.5 ml, 5.0 mmol) according to General Procedure H2.The crude product was purified by silica gel column chromatography (MeOH/CH2Cl2, MeOH from 0% to 15%) to give N,N-dimethyl-1-(1-(3-(trifluoromethyl)phenyl)cyclohexyl)methanamine (74 mg, 52%) as a clear oil. 1H NMR (CDCl3): δ 1.29-1.38 (m 3H), 1.48-1.57 (m, 3H), 1.63-1.70 (m, 2H), 1.97 (s, 6H), 2.11-2.15 (m, 2H), 2.34 (s, 2H), 7.41-7.43 (m, 2H), 7.56-7.59 (m, 1H), 7.63 (s, 1H). 13C NMR (CDCl3) δ 22.4, 26.7, 34.3, 43.9, 48.6, 72.7, 122.4, 124.3, 128.6, 126.0, 131.1, 147.6, 150.8.ESI MS m/z 286.

reactant | 1-(3-(trifluoromethyl)phenyl)cyclohexane-carbaldehyde | 0.50 mmol, 128 mg | FC(C=1C=C(C=CC1)C1(CCCCC1)C=O)(F)F | C14H15F3O
reactant | dimethylamine | 5.0 mmol, 2.0 M, 2.5 ml | CNC | C2H7N
product | N,N-dimethyl-1-(1-(3-(trifluoromethyl)phenyl)cyclohexyl)methanamine | 74 mg, 52% | CN(CC1(CCCCC1)C1=CC(=CC=C1)C(F)(F)F)C | C16H22F3N
